// TB7: PSRR VDD - HORDER 2V Power Supply Rejection Ratio
// Type: AC analysis, Temperature: 27C, Corner: TT
// AC source: VDD with mag=1, measure V_CONTROL AC response
// FOM: PSRR_VDD (dB)

simulator lang=spectre

parameters vddb_val=3.3 vdd_val=2.0 vref_val=1.0 voen_val=3.3

// ========== PDK Model Libraries (5 sections required for BGR+HORDER) ==========
include "/share/project/ianalog/process/SMIC/smic18mserf_1833_1P6M_5Ia_1TMa2_MIM20_TYP1_oa_cds_2022_01_20_v1.20_rev0_0/models/spectre/ms018_enhanced_v1p2_rev0_spe.lib" section=tt
include "/share/project/ianalog/process/SMIC/smic18mserf_1833_1P6M_5Ia_1TMa2_MIM20_TYP1_oa_cds_2022_01_20_v1.20_rev0_0/models/spectre/ms018_enhanced_v1p2_rev0_spe.lib" section=res_tt
include "/share/project/ianalog/process/SMIC/smic18mserf_1833_1P6M_5Ia_1TMa2_MIM20_TYP1_oa_cds_2022_01_20_v1.20_rev0_0/models/spectre/ms018_enhanced_v1p2_rev0_spe.lib" section=mim_tt
include "/share/project/ianalog/process/SMIC/smic18mserf_1833_1P6M_5Ia_1TMa2_MIM20_TYP1_oa_cds_2022_01_20_v1.20_rev0_0/models/spectre/ms018_enhanced_v1p2_rev0_spe.lib" section=bjt_tt
include "/share/project/ianalog/process/SMIC/smic18mserf_1833_1P6M_5Ia_1TMa2_MIM20_TYP1_oa_cds_2022_01_20_v1.20_rev0_0/models/spectre/ms018_enhanced_v1p2_rev0_spe.lib" section=dio_tt
include "/share/project/ianalog/process/SMIC/smic18mserf_1833_1P6M_5Ia_1TMa2_MIM20_TYP1_oa_cds_2022_01_20_v1.20_rev0_0/models/spectre/ms018_enhanced_v1p2_rev0_spe.lib" section=var_tt

// ========== DUTs ==========
include "./bgr.scs"
include "./dut.scs"

// ========== Simulation Options ==========
simulatorOptions options gmin=1e-15 reltol=1e-4 vabstol=1e-6 iabstol=1e-12 temp=27

// ========== BGR Instance ==========
xBGR (DEC_D0 DEC_D1 DEC_D2 GND OEN PIB VBG VDDB VR0 VR1 VCTAT VREF) BANDGAP_7070_MK3

// ========== BGR Supplies and Inputs ==========
V_VDDB (VDDB 0) vsource dc=3.3
V_GND (GND 0) vsource dc=0
V_OEN (OEN 0) vsource dc=3.3
V_VREF (VREF 0) vsource dc=1
V_DEC0 (DEC_D0 0) vsource dc=0
V_DEC1 (DEC_D1 0) vsource dc=0
V_DEC2 (DEC_D2 0) vsource dc=0

// ========== HORDER Wrapper Instance ==========
xdut (IBN_3U_CENTER VINP_CENTER V_CONTROL CTRL_H4 CTRL_H5 IBN_1U_H3 IBN_1U_H4 IBN_1U_H5 IBN_6U_CONT IBN_6U_H1 IBN_6U_H3 IBN_6U_H4 IBN_6U_H5 IBN_6U_VOL3 IBN_6U_VOL41 IBN_6U_VOL42 IBN_6U_VOL51 IBN_6U_VOL52 IBP_3U_ADDER NCTRL_H4 NCTRL_H5 VDD VH1 VH2 VH3 VCTAT VL1 VL2 VL3 VM VOUT_ADDER VOUT_CONT VOUT_H1 VOUT_H3 VOUT_H4 VOUT_H5 VSS STB1_CONT STB2_CONT STB1_H1 STB2_H1 STB1_H3_AMP STB2_H3_AMP STB1_H4_AMP1 STB2_H4_AMP1 STB1_H5_AMP1 STB2_H5_AMP1 STB1_ADDER STB2_ADDER STB1_H3 STB2_H3 STB1_H4 STB2_H4 STB1_H4_AMP2 STB2_H4_AMP2 STB1_H5 STB2_H5 STB1_H5_AMP2 STB2_H5_AMP2 STB1_CENTER STB2_CENTER VDD VSS) NewGenerator_20260610_175018_wrapper_9f8ecae021113917

// ========== HORDER Supplies ==========
// VDD has mag=1 for AC PSRR measurement
V_VDD (VDD 0) vsource dc=2 mag=1
V_VSS (VSS 0) vsource dc=0
V_VINP_CENTER (VINP_CENTER 0) vsource dc=1.28
V_VM (VM 0) vsource dc=1.3
V_VH1 (VH1 0) vsource dc=1.7
V_VH2 (VH2 0) vsource dc=1.8
V_VH3 (VH3 0) vsource dc=1.9
V_VL1 (VL1 0) vsource dc=0.9
V_VL2 (VL2 0) vsource dc=0.8
V_VL3 (VL3 0) vsource dc=0.7

// ========== HORDER Control Inputs ==========
V_CTRL_H4 (CTRL_H4 0) vsource dc=0
V_NCTRL_H4 (NCTRL_H4 0) vsource dc=2
V_CTRL_H5 (CTRL_H5 0) vsource dc=0
V_NCTRL_H5 (NCTRL_H5 0) vsource dc=2

// ========== HORDER Bias Currents ==========
// IBN_* : VDD -> port (current into HORDER)
I_IBN_1U_H3 (VDD IBN_1U_H3) isource dc=1u
I_IBN_1U_H4 (VDD IBN_1U_H4) isource dc=1u
I_IBN_1U_H5 (VDD IBN_1U_H5) isource dc=1u
I_IBN_6U_H1 (VDD IBN_6U_H1) isource dc=6u
I_IBN_6U_H3 (VDD IBN_6U_H3) isource dc=6u
I_IBN_6U_H4 (VDD IBN_6U_H4) isource dc=6u
I_IBN_6U_H5 (VDD IBN_6U_H5) isource dc=6u
I_IBN_6U_CONT (VDD IBN_6U_CONT) isource dc=6u
I_IBN_6U_VOL3 (VDD IBN_6U_VOL3) isource dc=6u
I_IBN_6U_VOL41 (VDD IBN_6U_VOL41) isource dc=6u
I_IBN_6U_VOL42 (VDD IBN_6U_VOL42) isource dc=6u
I_IBN_6U_VOL51 (VDD IBN_6U_VOL51) isource dc=6u
I_IBN_6U_VOL52 (VDD IBN_6U_VOL52) isource dc=6u

// IBP_3U / IBN_3U_CENTER : port -> VSS (current out of HORDER)
I_IBP_3U_ADDER (IBP_3U_ADDER 0) isource dc=3u
I_IBN_3U_CENTER (IBN_3U_CENTER 0) isource dc=3u

// STB probe iprobes: short STB1_x to STB2_x to close feedback loops
iIPRB_CONT    (STB1_CONT    STB2_CONT)    iprobe
iIPRB_H1      (STB1_H1      STB2_H1)      iprobe
iIPRB_H3_AMP  (STB1_H3_AMP  STB2_H3_AMP)  iprobe
iIPRB_H4_AMP1 (STB1_H4_AMP1 STB2_H4_AMP1) iprobe
iIPRB_H5_AMP1 (STB1_H5_AMP1 STB2_H5_AMP1) iprobe
iIPRB_ADDER   (STB1_ADDER   STB2_ADDER)   iprobe
iIPRB_H3      (STB1_H3      STB2_H3)      iprobe
iIPRB_H4      (STB1_H4      STB2_H4)      iprobe
iIPRB_H4_AMP2 (STB1_H4_AMP2 STB2_H4_AMP2) iprobe
iIPRB_H5      (STB1_H5      STB2_H5)      iprobe
iIPRB_H5_AMP2 (STB1_H5_AMP2 STB2_H5_AMP2) iprobe
iIPRB_CENTER  (STB1_CENTER  STB2_CENTER)  iprobe

// ========== AC Analysis: PSRR from VDD ==========
simulator lang=spectre
ac_psrr_vdd ac start=1e-3 stop=1e9 dec=10

// ========== Save Signals ==========
save V_CONTROL
